US05905074
To a solution of 2.27 g (6.7mMol) of (S)-2-[(4aR,5S,8aS)-5-(tert-butyl-dimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydro-naphtalen-1-yl]-propan-1-ol in 22.7 ml of ethylacetate were added 227 mg of Pd/C 10% and 227 mg of sodium bicarbonate. The reaction mixture was stirred under hydrogen atmosphere overnight, filtered over Speedex using ethylacetate for washing thoroughly and the solvent evaporated in vacuo. The residue was chromatographed over a 250 g Lobar column with hexane/ethylacetate 9/1 to yield 2.18 g (95.5%) of (S)-2-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphtalen-1-yl]-propan-1-ol as an oily product.

reactant | (S)-2-[(4aR,5S,8aS)-5-(tert-butyl-dimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydro-naphtalen-1-yl]-propan-1-ol | 6.7mMol, 2.27 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC=C([C@]2(CCC1)C)[C@@H](CO)C)(C)C | C20H38O2Si
reactant | sodium bicarbonate | 227 mg | C([O-])(O)=O.[Na+]
solvent | ethylacetate | 22.7 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | 227 mg | [Pd] | Pd
product | (S)-2-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphtalen-1-yl]-propan-1-ol | 2.18 g, 95.5% | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](CO)C)(C)C | C20H40O2Si
